US05925611
Preparation of (CF3)2CFCF2OCH3
The title compound was prepared essentially as in Example 1 using anhydrous potassium fluoride (31.9 g, 0.55 mole), anhydrous dimethyl formamide (186 g), perfluoroisobutryl fluoride (108 g of 99% purity, 0.5 mole), and dimethyl sulfate (81.9 g, 0.65 mole). The resulting mixture was held at -20° C. for 16 hours, was warmed to 40° C. for 3.5 hours, and was then distilled to yield 109 g of the title compound (83.6% purity by GLC; also containing 11.6% (CF3)2CFCOF) . The reaction mixtures from several runs were combined and distilled (b.=60-61° C.).

reactant | potassium fluoride | 0.55 mole, 31.9 g | [F-].[K+]
reactant | perfluoroisobutryl fluoride | 0.5 mole, 108 g | FC(C(=O)F)(C(F)(F)F)C(F)(F)F | C4F8O
reactant | dimethyl sulfate | 0.65 mole, 81.9 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethyl formamide | 186 g | CN(C=O)C | C3H7NO
product | (CF3)2CFCF2OCH3 | 109 g | C(F)(C(F)(F)F)(C(F)(F)F)C(F)(F)OC | C5H3F9O
